* Subcircuit 5_bit_dac
.subckt 5_bit_dac net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ 
* d:\8.softwares\esim\fossee\esim\library\subcircuitlibrary\5_bit_dac\5_bit_dac.cir
.include 4_bit_dac.sub
.include switch.sub
x3 net-_u1-pad7_ net-_x1-pad7_ net-_x2-pad7_ net-_u1-pad8_ switch
x1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad5_ net-_x1-pad5_ net-_u1-pad4_ net-_x1-pad7_ 4_bit_dac
x2 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_x1-pad5_ net-_u1-pad6_ net-_u1-pad4_ net-_x2-pad7_ 4_bit_dac
* Control Statements

.ends 5_bit_dac